US06387359B1
313 g of N-myristoyl-N-methyl-β-alanine (manufactured by Kawaken Fine Chemical Co.) and 256 g of methanol were put into a 1000 ml flask, to which was added 2.85 g of p-toluenesulfonic acid as catalyst, and the mixture was heated for reaction under reflux for 5 hours. After its acid value was confirmed to be not larger than 10, the reaction mixture was neutralized with 1.2 g of an aqueous solution of sodium hydroxide (50%), and then the methanol was evaporated away under reduced pressure. The resulting residue was washed with water and dried to obtain N-myristoyl-N-methyl-β-alanine methyl ester. A 163 g portion of this N-myristoyl-N-methyl-β-alanine methyl ester and 379 g of decaglycerin (manufactured by Sakamoto Pharmaceutical Industry Co.), and then 1.1 g of sodium hydroxide were put into a 1000 ml flask, the atmosphere of which was then replaced with nitrogen. Then, the mixture was subjected to transesterification reaction by keeping it at 150° C. and not more than 60 mmHg for 6 hours to obtain 460 g of a pasty or oily product.

reactant | N-myristoyl-N-methyl-β-alanine | 313 g | C(CCCCCCCCCCCCC)(=O)N(CCC(=O)O)C | C18H35NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 256 g | CO | CH4O
catalyst | p-toluenesulfonic acid | 2.85 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-myristoyl-N-methyl-β-alanine methyl ester | COC(CCN(C)C(CCCCCCCCCCCCC)=O)=O | C19H37NO3
